US07414050B2
g) 3-(4-Nitro-phenyl)-pentanedioic acid
A suspension of 7.32 g (16.1 mmol) of 2,4-bis-ethoxycarbonyl-3-(4-nitro-phenyl)-pentanedioic acid diethyl ester (as prepared in the previous step) in concentrated HCl (15 mL) was heated to 100° C. for 22 h. The mixture was cooled to RT, and the resulting precipitate was filtered, washed with cold water, and air-dried to afford 3.58 g (88%) of the title compound as an off-white solid: 1H-NMR (CD3OD; 400 MHz): δ 8.12 (d, 2H, J=8.8 Hz), 7.58 (d, 2H, J=8.8 Hz), 3.77-3.68 (m, 1H), 2.87-2.66 (m, 4H).

reactant | 2,4-bis-ethoxycarbonyl-3-(4-nitro-phenyl)-pentanedioic acid diethyl ester | 16.1 mmol, 7.32 g | C(C)OC(C(C(C(C(=O)OCC)C(=O)OCC)C1=CC=C(C=C1)[N+](=O)[O-])C(=O)OCC)=O | C21H27NO10
solvent | HCl | 15 mL | Cl | ClH
product | 3-(4-Nitro-phenyl)-pentanedioic acid | 3.58 g, 88% | [N+](=O)([O-])C1=CC=C(C=C1)C(CC(=O)O)CC(=O)O | C11H11NO6
